US06916929B2
4-Methylamino-4-phenylpiperidine base
6.3 g of potassium hydroxide and 15 ml of 4-methyl-2-pentanone are added at 20° C. to a solution of 7.5 g of 4-methylamino-4-phenylpiperidine dioxalate in 30 ml of water. The mixture is stirred, the phases are separated by settling and the aqueous phase is discarded. The organic phase is concentrated to dryness and the oily residue is taken up in 15 ml of toluene. The toluene solution is dried over magnesium sulfate. The minerals are filtered off and the precipitate is rinsed with 5 ml of toluene and concentrated to dryness. 3.8 g of a colorless oil, which is 4-methylamino-4-phenylpiperidine base, are thus obtained in a purity of greater than 97%.

reactant | potassium hydroxide | 6.3 g | [OH-].[K+]
reactant | 4-methyl-2-pentanone | 15 ml | CC(CC(C)=O)C | C6H12O
reactant | 4-methylamino-4-phenylpiperidine dioxalate | 7.5 g | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.CNC1(CCNCC1)C1=CC=CC=C1
solvent | water | 30 ml | O | H2O
product | 4-Methylamino-4-phenylpiperidine | CNC1(CCNCC1)C1=CC=CC=C1 | C12H18N2
